US05405854
22.2 ml of triethylamine are added dropwise to 20 g of glycine methyl ester hydrochloride and 34.8 g of di-t-butyl dicarbonate in 300 ml of methylene chloride and 10 ml of water. After stirring, the reaction mixture is concentrated. The residue is taken up in ether and the ether phase is washed neutral with water after the addition of 5 ml of 1N hydrochloric acid. After drying and evaporating the ether phase, there are obtained 30.2 g of N-BOC-glycine methyl ester. Rf=0.33 (ether/hexane 1:1).

reactant | triethylamine | 22.2 ml | C(C)N(CC)CC | C6H15N
reactant | glycine methyl ester hydrochloride | 20 g | Cl.COC(CN)=O
reactant | di-t-butyl dicarbonate | 34.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | N-BOC-glycine methyl ester | 30.2 g | COC(CNC(=O)OC(C)(C)C)=O | C8H15NO4
